US07939524B2
c) N-{3-[(1R,2S,7R,8S)-3-(2-Cyclopropyl-ethyl)-6-hydroxy-4-oxo-3-aza-tricyclo[6.2.1.02,7]undec-5-en-5-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide
To a solution of the crude (1S,2R,3S,4R)-3-{(2-cyclopropyl-ethyl)-[2-(7-methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-acetyl]-amino}-bicyclo[2.2.1]heptane-2-carboxylic acid ethyl ester in absolute ethanol (11 mL) was added a 21 wt. % solution of sodium ethoxide in ethanol (2.4 mL, 7.41 mmol). After shaking at 25° C. for 23 h, additional 21 wt. % solution of sodium ethoxide in ethanol (1.0 mL, 3.09 mmol) was added. After shaking at 25° C. for 6 h, additional 21 wt. % solution of sodium ethoxide in ethanol (1.0 mL, 3.09 mmol) was added and the mixture was shaken for another 24 h. The mixture was then acidified with 1.0 M aqueous hydrochloric acid solution (22 mL) and was extracted with ethyl acetate (3×60 mL). The combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo. The crude mixture was purified by prep-HPLC [Column Luna 5μ C18 (2) 100 Å AXIA 150×21.2 mm, 5 micron, 30%-95% in 7 min @ 30 mL/min flow rate, 0.05% trifluoroacetic acid in acetonitrile/0.05% trifluoroacetic acid in water] to afford the desired product, N-{3-[(1R,2S,7R,8S)-3-(2-cyclopropyl-ethyl)-6-hydroxy-4-oxo-3-aza-tricyclo[6.2.1.02,7]undec-5-en-5-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide (160.7 mg, 0.309 mmol, 22.9% over two steps), as a solid. 1H NMR (400 MHz, CDCl3) δ: 0.09-0.15 (2H, m), 0.49-0.54 (2H, m), 0.64-0.73 (1H, m), 1.27-1.31 (2H, m), 1.48-1.78 (6H, m), 2.55-2.56 (1H, m), 2.74-2.80 (1H, m), 2.85 (1H, d, J=9.2 Hz), 3.06 (3H, s), 3.10-3.17 (1H, m), 3.57 (1H, d, J=9.2 Hz), 3.80-3.87 (1H, m), 6.99 (1H, s), 7.22-7.25 (1H, m), 7.62-7.68 (2H, m). LC-MS (ESI) calcd for C23H28N4O6S2 520.15, found 521.4 [M+H+].

reactant | (1S,2R,3S,4R)-3-{(2-cyclopropyl-ethyl)-[2-(7-methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-acetyl]-amino}-bicyclo[2.2.1]heptane-2-carboxylic acid ethyl ester | C(C)OC(=O)[C@@H]1[C@H]2CC[C@@H]([C@@H]1N(C(CC1=NS(C3=C(N1)C=CC(=C3)NS(=O)(=O)C)(=O)=O)=O)CCC3CC3)C2 | C25H34N4O7S2
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | hydrochloric acid | 1.0 M, 22 mL | Cl | ClH
solvent | ethanol | 11 mL | C(C)O | C2H6O
solvent | ethanol | 3.09 mmol, 1.0 mL | C(C)O | C2H6O
solvent | ethanol | 3.09 mmol, 1.0 mL | C(C)O | C2H6O
solvent | ethanol | 7.41 mmol, 2.4 mL | C(C)O | C2H6O
product | N-{3-[(1R,2S,7R,8S)-3-(2-cyclopropyl-ethyl)-6-hydroxy-4-oxo-3-aza-tricyclo[6.2.1.02,7]undec-5-en-5-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide | 0.309 mmol, 160.7 mg, 22.9% | C1(CC1)CCN1[C@H]2[C@@H]3CC[C@H]([C@H]2C(=C(C1=O)C1=NS(C2=C(N1)C=CC(=C2)NS(=O)(=O)C)(=O)=O)O)C3 | C23H28N4O6S2
